US04041070
Preparation of 1,1-Dimethyl- 3-(1,2,3,4-tetrahydro-4-oxo-1-naphthyl)urea
In 25 ml of dichloromethane containing 2.8 ml of triethyl amine, 2,32 g of 1,2,3,4-tetrahydro-4-oxo-1-naphthylamine are added followed by 2.16 g of dimethylcarbamoyl chloride. The mixture is heated at reflux for 3 hours, cooled to room temperature, washed successively with 50 ml of H2O, 50 ml of 3N NaOH, 50 ml of 3N HCl and 50 ml of H2O. The organic phase is dried over magnesium sulfate and evaporated to dryness. The residue is recrystallized from toluene to give the title compound, melting point 157° C. to 162° C.

reactant | triethyl amine | C(C)N(CC)CC | C6H15N
reactant | 1,2,3,4-tetrahydro-4-oxo-1-naphthylamine | 2,32 g | O=C1CCC(C2=CC=CC=C12)N | C10H11NO
reactant | dimethylcarbamoyl chloride | 2.16 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 1,1-Dimethyl- 3-(1,2,3,4-tetrahydro-4-oxo-1-naphthyl)urea | CN(C(=O)NC1CCC(C2=CC=CC=C12)=O)C | C13H16N2O2
